US09328099B2
tert-Butyl (5-bromo-1-oxo-1,3-dihydro-2H-isoindol-2-yl)acetate
5-Bromo-2,3-dihydro-1H-isoindol-1-one (100 mg, 0.47 mmol) was dissolved in DMF (4.7 mL) and stirred at 0° C. NaH (38 mg, 0.94 mmol, 60% dispersion in oil) was carefully added in two portions, and the resulting mixture was allowed to stir at 0° C. for 15 minutes before tert-butyl bromoacetate (92 mg, 0.47 mmol) was added. The mixture was allowed to stir at 0° C. for 30 minutes before saturated aqueous NaHCO3 (10 mL) was carefully added. The mixture was extracted with EtOAc, and the organic layer was washed with water, brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 0-20% EtOAc/hexanes). Desired fractions were identified, combined, and concentrated in vacuo to afford the title compound. LRMS (ESI) calc'd for C14H16BrNO3 [M+Na]+: 348. Found: 348.

reactant | 5-Bromo-2,3-dihydro-1H-isoindol-1-one | 0.47 mmol, 100 mg | BrC=1C=C2CNC(C2=CC1)=O | C8H6BrNO
reactant | NaH | 0.94 mmol, 38 mg | [H-].[Na+]
reactant | tert-butyl bromoacetate | 0.47 mmol, 92 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 4.7 mL | CN(C)C=O | C3H7NO
product | tert-Butyl (5-bromo-1-oxo-1,3-dihydro-2H-isoindol-2-yl)acetate | BrC=1C=C2CN(C(C2=CC1)=O)CC(=O)OC(C)(C)C | C14H16BrNO3
